US08053431B2
To a solution of 1-(2-cyanoethyl)-1H-benzoimidazole-5-carboxylic acid (0.25 g, 1.16 mmol) in DMF (2.5 mL) was added with stirring HOBt (0.17 g, 1.27 mmol) followed by exo-nortropinol hydrochloride (0.21 g, 1.27 mmol), DIPEA (0.45 g, 3.48 mmol). EDCl.HCl was then added and it was stirred at room temperature for 12 h. The solvent was then evaporated and to the residue diluted with water (5 mL) and extracted with CH2Cl2. The organic phase was washed with brine solution, dried (Na2SO4) and the solvent evaporated. The residue was purified by preparative HPLC which afforded 0.26 g (67%) of 3-[5-(3-Hydroxy-8-aza-bicyclo[3.2.1]octane-8-carbonyl)-benzoimidazol-1-yl]-propionitrile. MS-ESI m/z 325 (M+1).

reactant | 1-(2-cyanoethyl)-1H-benzoimidazole-5-carboxylic acid | 1.16 mmol, 0.25 g | C(#N)CCN1C=NC2=C1C=CC(=C2)C(=O)O | C11H9N3O2
reactant | HOBt | 1.27 mmol, 0.17 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrochloride | 1.27 mmol, 0.21 g | Cl | ClH
reactant | DIPEA | 3.48 mmol, 0.45 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-[5-(3-Hydroxy-8-aza-bicyclo[3.2.1]octane-8-carbonyl)-benzoimidazol-1-yl]-propionitrile | 0.26 g, 67% | OC1CC2CCC(C1)N2C(=O)C2=CC1=C(N(C=N1)CCC#N)C=C2 | C18H20N4O2
